US03965111
2-Methylcarbamoyl-6-o-chlorophenyl-8-ethyl-1,2-dihydro- 4H-s-triazolo[3,4-c]thieno[2,3-e][1,4]diazepin-1-one
9 g of 6-o-chlorophenyl-8-ethyl-1,2-dihydro-4H-s-triazolo [3,4-c]-thieno[2,3-e][1,4]diazepin-1-one is dissolved in 50 ml of chloroform, and 5 ml of methyl isocyanate is added, and the resulting mixture is refluxed for 8 hours. Then the chloroform is removed under reduced pressure, and the remaining jelly-like substance is treated with ligroin to give the title compound as white crystals. The product, when recrystallized from a mixture of ethanol and chloroform, shows a melting point of 193°-194° C.

reactant | 6-o-chlorophenyl-8-ethyl-1,2-dihydro-4H-s-triazolo [3,4-c]-thieno[2,3-e][1,4]diazepin-1-one | 9 g | ClC1=C(C=CC=C1)C1=NCC2=C(N3C1=NN(C3)CC)S(CC2)=O | C16H17ClN4OS
reactant | methyl isocyanate | 5 ml | CN=C=O | C2H3NO
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylcarbamoyl-6-o-chlorophenyl-8-ethyl-1,2-dihydro- 4H-s-triazolo[3,4-c]thieno[2,3-e][1,4]diazepin-1-one | CNC(=O)C1CC2=C(N3C(C(=NC2)C2=C(C=CC=C2)Cl)=NN(C3)CC)S1=O | C18H20ClN5O2S
